US06946554B2
3-Cyano-4-phenylbutane-2-one hydrate (5:1)1
A sample of 3-cyano-4-phenyl-3-buten-2-one, prepared according to the procedure of Example 9 (5.0 g, 29.24 mmol), was dissolved in methanol (100 mL) containing 10% Pd—C (ca. 0.1 g, Aldrich) and hydrogenated at 50 psi hydrogen pressure for 2 h. The mixture was filtered through Celite to remove catalyst and an analytical sample prepared by concentrating a portion of the filtrate to give a pale-yellow oil. The oil was passed through a short pad of silica gel (hexane—ethyl acetate 7:3) and the desired fractions evaporated to give the title compound as a straw-colored oil. The remaining material was used directly in the next step.

reactant | 3-cyano-4-phenyl-3-buten-2-one | C(#N)C(C(C)=O)=CC1=CC=CC=C1 | C11H9NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd—C | ca. 0.1 g | [Pd] | Pd
product | 3-Cyano-4-phenylbutane-2-one hydrate | O.C(#N)C(C(C)=O)CC1=CC=CC=C1 | InChI=1S/C11H11NO.H2O/c1-9(13)11(8-12)7-10-5-3-2-4-6-10;/h2-6,11H,7H2,1H3;1H2
